US05275816
Methylhydrazine (0.1 ml, 2.0 mmol) in dichloromethane (5 ml) was treated dropwise with a solution of benzyl bromide (0.12 ml, 1.0 mmol) in dichloromethane (2 ml). After addition was complete the mixture was stirred for 10 min. and evaporated to dryness under reduced pressure. The residue was diluted with brine (5 ml) and ethyl acetate (5 ml). The organic phase was separated, dried over magnesium sulphate and evaporated to dryness under reduced pressure to give N-benzyl-N-methylhydrazine (0.082 g, 60%); υmax (CH2Cl2) 1650 cm-1 ; δH (CDCl3) 2.49 (3H, s), 3.41 (2H, s), 3.60 (2H, s), and 7.27 (5H, s).

reactant | Methylhydrazine | 2.0 mmol, 0.1 ml | CNN | CH6N2
reactant | benzyl bromide | 1.0 mmol, 0.12 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-benzyl-N-methylhydrazine | 0.082 g, 60% | C(C1=CC=CC=C1)N(N)C | C8H12N2
